US07238818B2
b. preparation of 3-t-butyl-6,6-dimethylfulvene
Dry acetone (99.3 mmol, 5.77 g, 7.3 mL) and t-butylcyclopentadiene (50.6 mmol, 6.17 g) were mixed in a dropping funnel and added at room temperature to an ethanol solution (10 mL) of KOH (10.3 mmol, 0.58 g) stirring under nitrogen. After stirring overnight, the golden solution was diluted with ether, washed with 2 N HCl, water, and dried over sodium sulfate. A sample of the crude organic fraction (7.4 g) was taken for analysis (GCMS) showing 90% conversion to the title compound. The product was submitted to distillation. 1H-NMR (CDCl3): δ 1.38 (s, 9H), 2.28 (s, 6H), 6.24 (m, 1H), 6.63 (m, 2H).

reactant | acetone | 99.3 mmol, 7.3 mL, 5.77 g | CC(=O)C | C3H6O
reactant | t-butylcyclopentadiene | 50.6 mmol, 6.17 g | C(C)(C)(C)C1=CC=CC1 | C9H14
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | KOH | 10.3 mmol, 0.58 g | [OH-].[K+]
solvent | ether | CCOCC | C4H10O
product | 3-t-butyl-6,6-dimethylfulvene | C(C)(C)(C)C=1C=CC(C1)=C(C)C | C12H18
